### PR TITLE
[Merged by Bors] - feat(GroupTheory/CommutingProbability): Group with commuting probability exactly 1/n

### PR DESCRIPTION
**Pull request by tb65536**
This PR constructs a group with commuting probability exactly 1/n as a product of dihedral groups.

Besides independent interest, this construction is useful for handling factors of 1/n (e.g., the end of this blog post: https://randompermutations.com/2015/02/06/commuting-probability-of-compact-groups/).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/CommutingProbability.lean [hunk 1]
```diff
@@ -132,3 +135,83 @@ theorem inv_card_commutator_le_commProb : (↑(Nat.card (commutator G)))⁻¹ 
...
+  qify [show 2 ∣ n + 3 by rw [Nat.dvd_iff_mod_eq_zero, Nat.add_mod, Nat.odd_iff.mp hn]; rfl]
+  rw [div_div, ← mul_assoc]
+  congr
+
+lemma div_two_lt {n : ℕ} (h0 : n ≠ 0) : n / 2 < n :=
+  Nat.div_lt_self (Nat.pos_of_ne_zero h0) (lt_add_one 1)
+
+lemma div_four_lt : {n : ℕ} → (h0 : n ≠ 0) → (h1 : n ≠ 1) → n / 4 + 1 < n
+| 0 | 1 | 2 | 3 => by decide
+| n + 4 => by intros; linarith [n.add_div_right four_pos, n.div_le_self 4]
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/CommutingProbability.lean:154]:
```suggestion
private lemma div_two_lt {n : ℕ} (h0 : n ≠ 0) : n / 2 < n :=
  Nat.div_lt_self (Nat.pos_of_ne_zero h0) (lt_add_one 1)

private lemma div_four_lt : {n : ℕ} → (h0 : n ≠ 0) → (h1 : n ≠ 1) → n / 4 + 1 < n
| 0 | 1 | 2 | 3 => by decide
| n + 4 => by intros; linarith [n.add_div_right four_pos, n.div_le_self 4]
```

File: Mathlib/GroupTheory/CommutingProbability.lean [hunk 2]
```diff
@@ -132,3 +135,83 @@ theorem inv_card_commutator_le_commProb : (↑(Nat.card (commutator G)))⁻¹ 
...
+    3 :: reciprocalFactors (n / 2)
+  else
+    have := div_four_lt h0 h1
+    n % 4 * n :: reciprocalFactors (n / 4 + 1)
+
+/-- A finite product of Dihedral groups. -/
+def Product (l : List ℕ) : Type :=
+  ∀ i : Fin l.length, DihedralGroup l[i]
+
+instance (l : List ℕ) : Group (Product l) := Pi.group
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/CommutingProbability.lean:171]: Since it has exactly the same algebraic structure, I don't think a new nominal type is useful here:
```suggestion
/-- A finite product of Dihedral groups. -/
abbrev Product (l : List ℕ) : Type :=
  ∀ i : Fin l.length, DihedralGroup l[i]
```

File: Mathlib/GroupTheory/CommutingProbability.lean [hunk 3]
```diff
@@ -132,3 +135,83 @@ theorem inv_card_commutator_le_commProb : (↑(Nat.card (commutator G)))⁻¹ 
...
+  Nat.div_lt_self (Nat.pos_of_ne_zero h0) (lt_add_one 1)
+
+lemma div_four_lt : {n : ℕ} → (h0 : n ≠ 0) → (h1 : n ≠ 1) → n / 4 + 1 < n
+| 0 | 1 | 2 | 3 => by decide
+| n + 4 => by intros; linarith [n.add_div_right four_pos, n.div_le_self 4]
+
+/-- A list of Dihedral groups whose product will have commuting probability `1 / n`. -/
+def reciprocalFactors (n : ℕ) : List ℕ :=
+  if h0 : n = 0 then [0]
+  else if h1 : n = 1 then []
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/CommutingProbability.lean:159]: These two cases probably deserve a `simp` lemma

File: Mathlib/GroupTheory/CommutingProbability.lean [hunk 4]
```diff
@@ -132,3 +135,83 @@ theorem inv_card_commutator_le_commProb : (↑(Nat.card (commutator G)))⁻¹ 
...
+    commProb (Product l) = (l.map (fun k => commProb (DihedralGroup k))).prod := by
+  induction' l with n l h
+  · rw [commProb_nil, List.map_nil, List.prod_nil]
+  · rw [commProb_cons, List.map_cons, List.prod_cons, h]
+
+/-- Construction of a group with commuting probability `1 / n`. -/
+theorem commProb_reciprocal (n : ℕ) :
+    commProb (Product (reciprocalFactors n)) = 1 / n := by
+  rw [commProb_product]
+  unfold reciprocalFactors
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/CommutingProbability.lean:190]: Could you write some API about this definition so that it doesn't need unfolding here?

File: Mathlib/GroupTheory/CommutingProbability.lean [hunk 5]
```diff
@@ -132,3 +136,86 @@ theorem inv_card_commutator_le_commProb : (↑(Nat.card (commutator G)))⁻¹ 
...
+
+lemma reciprocalFactors_def :
+    reciprocalFactors n =
+      if h0 : n = 0 then [0]
+      else if h1 : n = 1 then []
+      else if 2 ∣ n then
+        3 :: reciprocalFactors (n / 2)
+      else
+        n % 4 * n :: reciprocalFactors (n / 4 + 1) := by
+  conv_lhs => unfold reciprocalFactors
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/CommutingProbability.lean:180]: By api lemmas, I meant something that hides the `if`s altogether
```suggestion
lemma reciprocalFactors_of_two_dvd (hn0 : n \ne 0) (hn : 2 | n) :
  reciprocalFactors n = 3 :: reciprocalFactors (n / 2) := sorry

lemma reciprocalFactors_of_not_two_dvd (hn0 : n \ne 0) (hn0 : n \ne 1) (hn : \not2 | n) :
  reciprocalFactors n = n % 4 * n :: reciprocalFactors (n / 4 + 1) := sorry
```
which should drop into your proof below without much work.

If you're feeling braver, *maybe* the following is a nice API:
```suggestion
lemma reciprocalFactors_two_mul (hn0 : n \ne 0) :
  reciprocalFactors (2*n) = 3 :: reciprocalFactors n := rfl
  
lemma reciprocalFactors_four_mul_add_one (hn0 : n \ne 0) :
  reciprocalFactors (4*n + 1) = (4*n + 1) :: reciprocalFactors (n + 1) := rfl
  
lemma reciprocalFactors_four_mul_add_three (hn0 : n \ne 0) :
  reciprocalFactors (4*n + 3) = 3*(4*n + 3) :: reciprocalFactors (n + 1) := rfl
```
if you think the

File: Mathlib/GroupTheory/CommutingProbability.lean [hunk 6]
```diff
@@ -132,3 +136,86 @@ theorem inv_card_commutator_le_commProb : (↑(Nat.card (commutator G)))⁻¹ 
...
+        have key : n % 4 = 1 ∨ n % 4 = 3 := Nat.odd_mod_four_iff.mp (Nat.two_dvd_ne_zero.mp h2)
+        have hn : Odd (n % 4) := by rcases key with h | h <;> rw [h] <;> norm_num
+        rw [commProb_odd (hn.mul (Nat.odd_iff.mpr (Nat.two_dvd_ne_zero.mp h2)))]
+        rw [div_mul_div_comm, mul_one, div_eq_div_iff, one_mul] <;> norm_cast
+        · have h0 : (n % 4) ^ 2 + 3 = n % 4 * 4 := by rcases key with h | h <;> rw [h] <;> norm_num
+          have h1 := (Nat.div_add_mod n 4).symm
+          zify at h0 h1 ⊢
+          linear_combination (h0 + h1 * (n % 4)) * n
+        · have := hn.pos.ne'
+          positivity
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/CommutingProbability.lean:219]: I think it's totally fine (or even preferable) to unindent chained `by_cases` here to match the `else if`s:
```suggestion
  by_cases h0 : n = 0
  · rw [dif_pos h0, commProb_cons, commProb_nil, mul_one, h0, Nat.cast_zero, div_zero]
    apply commProb_eq_zero_of_infinite
  by_cases h1 : n = 1
  · rw [dif_neg h0, dif_pos h1, commProb_nil, h1, Nat.cast_one, div_one]
  by_cases h2 : 2 ∣ n
  · have := div_two_lt h0
    rw [dif_neg h0, dif_neg h1, if_pos h2, commProb_cons, commProb_reciprocal (n / 2),
        commProb_odd (by norm_num)]
    field_simp [h0]
    norm_num
  · have := div_four_lt h0 h1
    rw [dif_neg h0, dif_neg h1, if_neg h2, commProb_cons, commProb_reciprocal (n / 4 + 1)]
    have key : n % 4 = 1 ∨ n % 4 = 3 := Nat.odd_mod_four_iff.mp (Nat.two_dvd_ne_zero.mp h2)
    have hn : Odd (n % 4) := by rcases key with h | h <;> rw [h] <;> norm_num
    rw [commProb_odd (hn.mul (Nat.odd_iff.mpr (Nat.two_dvd_ne_zero.mp h2)))]
    rw [div_mul_div_comm, mul_one, div_eq_div_iff, one_mul] <;> norm_cast
    · have h0 : (n % 4) ^ 2 + 3 = n % 4 * 4 := by rcases key with h | h <;> rw [h] <;> norm_num
      have h1 := (Nat.div_add_mod n 4).symm
      zify at h0 h1 ⊢
      linear_combination (h0 + h1 * (n % 4)) * n
    · have := hn.pos.ne'
      positivity
```

File: Mathlib/GroupTheory/CommutingProbability.lean [hunk 7]
```diff
@@ -132,3 +136,90 @@ theorem inv_card_commutator_le_commProb : (↑(Nat.card (commutator G)))⁻¹ 
...
+  conv_lhs => unfold reciprocalFactors
+  rw [dif_neg h0, dif_neg h1, if_pos h2]
+
+@[nolint unusedHavesSuffices] lemma reciprocalFactors_odd {n : ℕ} (h1 : n ≠ 1) (h2 : Odd n) :
+    reciprocalFactors n = n % 4 * n :: reciprocalFactors (n / 4 + 1) := by
+  have h0 : n ≠ 0
+  · rintro rfl
+    norm_num at h2
+  conv_lhs => unfold reciprocalFactors
+  rw [dif_neg h0, dif_neg h1, if_neg (Nat.odd_iff_not_even.mp h2)]
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/CommutingProbability.lean:186]: This `unusedHavesSuffices` weirdness is probably worth filing a bug somewhere about, or asking on Zulip.

**Comment by ocfnash** [comment]
Thanks!

bors merge
